US07105507B2
N-[(1,1-Dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine Methyl Ester
Di-tert-butyl dicarbonate (6.0 g, 28 mmol) was added to a solution of N-(1,1-dimethylethyl)glycine methyl ester (J. Org. Chem 1995, 60, 5814, 4.0 g, 28 mmol) in dichloromethane (20 mL) and the mixture was stirred at room temperature for 16 hours. Further di-tert-butyl dicarbonate (3.0 g, 14 mmol) was added and mixture was stirred at room temperature for 72 hours. N,N-dimethylethylenediamine (3.2 mL, 28 mmol) was added and the mixture was stirred at room temperature for 1 hour. The mixture was washed with aqueous citric acid (10%, 2×40 mL), saturated aqueous sodium hydrogen carbonate (30 mL) and brine (30 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a yellow oil (5.6 g, 82%). 1H NMR (400 MHz, CDCl3) δ 1.40 (9H, s), 1.45 (9H, s), 3.72 (3H, s), and 4.05 (2H, s).

reactant | Di-tert-butyl dicarbonate | 28 mmol, 6.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-(1,1-dimethylethyl)glycine methyl ester | 28 mmol, 4.0 g | COC(CNC(C)(C)C)=O | C7H15NO2
reactant | di-tert-butyl dicarbonate | 14 mmol, 3.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylethylenediamine | 28 mmol, 3.2 mL | CN(CCN)C | C4H12N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[(1,1-Dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine Methyl Ester | 5.6 g, 82% | COC(CN(C(C)(C)C)C(=O)OC(C)(C)C)=O | C12H23NO4
